Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
ampicillin / Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Epigastric pain

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ s/p robotic assisted cholecystectomy ___ for
choledochoduodenal fistula now presents with c/o 2 days of
increasing epigastric pain radiating to R shoulder and back. 
Pain
is stabbing in quality, as high as ___, relieved with narcotic
pain meds, not made better or worse with PO intake. Minimal
intermittent nausea since operation, no vomiting. Has been 
having
diarrhea several times per day since operation, however has
stopped having BM's since yesterday AM. Still passing some gas.
Felt like she was having a fever today, checked temp was 100.4 
at
home. No chills at home, but started having shaking chills in 
ED.
Denies dizziness, lightheadedness, substernal chest pain, bloody
or dark tarry stools, acholic stools, changes in urination. 

 
Past Medical History:
PMH: Hypertension, HLD, Hypothyroidism, ?Gastric ulcers, 
Melanoma excision from LLE ___, atypical chest pain, 
diverticulitis of a periampullary duodenum 

PSH: Robotic assisted cholecystectomy ___, Melanoma excision
from LLE ___  

 
Social History:
___
Family History:
Sister with breast cancer, no other cancers 
Significant for CAD
 
Physical Exam:
Admission Physical Exam:
Vitals: 99.6 86 137/63 16 97% RA 
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, nondistended, minimal TTP around incisions, mild
epigastric TTP, no rebound or guarding, no hernias, incisions 
all
c/d/i with no surrounding erythema/fluctuance/drainage
Ext: No ___ edema, ___ warm and well perfused

Discharge Physical Exam:
VS: 98.4, 83, 145/55, 16, 94% RA
GEN: AAO x 3, NAD
CV: RRR
PULM: CTAB
ABD: Soft, NT/ND. Laparoscopy incisions well healed.
EXTR: Warm, no c/c/e
 
Pertinent Results:
___ 05:44AM   GLUCOSE-100 UREA N-8 CREAT-0.7 SODIUM-140 
POTASSIUM-3.9 CHLORIDE-104 TOTAL CO2-28 ANION GAP-12
___ 05:44AM   ALT(SGPT)-18 AST(SGOT)-15 ALK PHOS-78 TOT 
BILI-0.5
___ 05:44AM   LIPASE-17
___ 05:44AM   CALCIUM-8.1* PHOSPHATE-3.1 MAGNESIUM-2.3
___ 05:44AM   WBC-10.0 RBC-4.09* HGB-12.4 HCT-35.3* MCV-86 
MCH-30.3 MCHC-35.1* RDW-14.0
___ 05:44AM   PLT COUNT-262
___ 01:12AM   ___
___ 01:12AM   LACTATE-1.1
___ 09:00PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 09:00PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.5 
LEUK-SM 
___ 09:00PM URINE  RBC-0 WBC-3 BACTERIA-NONE YEAST-NONE 
EPI-1 TRANS EPI-<1
___ 09:00PM URINE  MUCOUS-RARE
___ 07:25PM   GLUCOSE-106* UREA N-12 CREAT-0.8 SODIUM-138 
POTASSIUM-4.2 CHLORIDE-101 TOTAL CO2-30 ANION GAP-11
___ 07:25PM   estGFR-Using this
___ 07:25PM   ALT(SGPT)-22 AST(SGOT)-16 ALK PHOS-88 
AMYLASE-19 TOT BILI-0.5
___ 07:25PM   LIPASE-18
___ 07:25PM   ALBUMIN-3.8
___ 07:25PM   WBC-10.2# RBC-4.36 HGB-13.0 HCT-37.5 MCV-86 
MCH-29.8 MCHC-34.6 RDW-13.8
___ 07:25PM   NEUTS-76.2* LYMPHS-15.0* MONOS-7.0 EOS-1.2 
BASOS-0.6
___ 07:25PM   PLT COUNT-305

___ ABD CT:
IMPRESSION: 
Trace right pleural effusion may represent a focal inflammatory 
process 
causing right hemidiaphragmatic irritation and thus contributing 
to the 
patient's symptoms.  No intraabdominal etiology for pain is 
identified on this study. 

 
Brief Hospital Course:
___ was admitted to the General Surgical Service for 
evaluation and treatment her abdominal pain.  She was admited on 
___ following 2 days of epigastric pain that radiated to 
her R shoulder and back, and low grade fever at home. Her labs 
were found to be within normal limits, and a CT scan revealed a 
small R pleural effusion.  She was admitted to ___ Surgery 
under Dr. ___ observation.  Blood cultures were sent, 
given the history of low grade fever.  She was placed on IVF, 
and made NPO, and had serial abdominal exams.  Gastroenterology 
was consulted and recommended outpatient EGD, which was 
scheduled on ___.
Neuro: The patient initially received IV dilaudid, with good 
effect and adequate pain control.  When tolerating oral intake, 
the patient was transitioned to oral pain medications.
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Ambulation and 
incentive spirrometry were encouraged throughout 
hospitalization.
GI/GU/FEN: Given the patient's recent surgical history, she was 
initally made NPO with IV fluids. Diet was advanced when 
appropriate, which was well tolerated.  Patient's intake and 
output were closely monitored, and IV fluid was adjusted when 
necessary.  Electrolytes were monitored.
ID: The patient's white blood count and fever curves were 
closely watched for signs of infection.  
Hematology: The patient's complete blood count was examined; no 
transfusions were required.
Prophylaxis: The patient received subcutaneous heparin and 
venodyne boots were used during this stay, and was encouraged to 
get up and ambulate frequently.
At the time of discharge, the patient was doing well, and was 
afebrile with stable vital signs.  The patient was tolerating a 
regular diet, ambulating, voiding without assistance, and pain 
was well controlled.  The patient received discharge teaching 
and follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
oxycodone ___ q4-6 prn pain (postop), Pravastatin 40', 
Diltiazem
ER 240', Levothyroxine 100', Lisinopril 10', Protonix 40',
Tylenol prn, Aleve prn

 
Discharge Medications:
1. Diltiazem Extended-Release 240 mg PO DAILY 
2. Acetaminophen 650 mg PO Q6H:PRN pain 
3. Levothyroxine Sodium 100 mcg PO DAILY 
4. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0
5. Pantoprazole 40 mg PO Q24H 
6. Pravastatin 40 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please call your doctor or nurse practitioner if you experience 
the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain is not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.
.
Please resume all regular home medications , unless specifically 
advised not to take a particular medication.  Also, please take 
any new medications as prescribed.
Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.  Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon, who will instruct you further regarding activity 
restrictions.
Avoid driving or operating heavy machinery while taking pain 
medications.
Please follow-up with your surgeon and Primary Care Provider 
(PCP) as advised.
Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water.  Gently pat the area dry.
*If you have staples, they will be removed at your follow-up 
appointment.
*If you have steri-strips, they will fall off on their own.  
Please remove any remaining strips ___ days after surgery.
 
Followup Instructions:
___